US08022075B2
Subsequently, 5-[4-(5-bromo-1H-benz[d]imidazol-2-yl)phenyl]-1,3-oxazole (204 mg) was dissolved in N,N-dimethylformamide (2 mL), and potassium carbonate (100 mg) and di-tert-butyl dicarbonate (152 μL) were added to the solution, followed by stirring at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, followed by extraction with chloroform and drying over magnesium sulfate. The solvent was evaporated under reduced pressure, and the solid was recovered through filtration by use of isopropyl ether, followed by drying under reduced pressure, to thereby yield a 1:1 mixture (123 mg) of tert-butyl 5-bromo-2-[4-(1,3-oxazol-5-yl)phenyl]-1H-benz[d]imidazole-1-carboxylate and tert-butyl 6-bromo-2-[4-(1,3-oxazol-5-yl)phenyl]-1H-benz[d]imidazole-1-carboxylate.

reactant | 5-[4-(5-bromo-1H-benz[d]imidazol-2-yl)phenyl]-1,3-oxazole | 204 mg | BrC1=CC2=C(NC(=N2)C2=CC=C(C=C2)C2=CN=CO2)C=C1 | C16H10BrN3O
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 152 μL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | tert-butyl 5-bromo-2-[4-(1,3-oxazol-5-yl)phenyl]-1H-benz[d]imidazole-1-carboxylate | 123 mg | BrC1=CC2=C(N(C(=N2)C2=CC=C(C=C2)C2=CN=CO2)C(=O)OC(C)(C)C)C=C1 | C21H18BrN3O3
